US06583146B1
5-Amino-3-[4-(1,1-dimethylethyl)phenyl]-2-(4-pyridyl)-7H-thiazolo[3,2-a]pyrimidin-7-one
To a solution of N-[4-[4-(1,1-dimethylethyl)phenyl]-5-(4-pyridyl)-1,3-thiazol-2-yl]-2-chloroacetamide hydrochloride (1.0 g) in dimethylsulfoxide (5 mL) was added sodium cyanate (0.24 g). The mixture was stirred at room temperature for 14 hours. An aqueous solution of sodium hydrogen carbonate was added to the reaction mixture and the mixture was extracted with a mixed solvent of ethyl acetate-tetrahydrofuran (1:1). The extract was washed with brine, dried over anhydrous sodium sulfate and filtered. The solvent was concentrated under reduced pressure and the residue was purified with silica gel column chromatography (hexane-tetrahydrofuran, 1:1) and recrystallized from ethyl acetate to obtain the title compound (0.14 g, yield 24%).

reactant | N-[4-[4-(1,1-dimethylethyl)phenyl]-5-(4-pyridyl)-1,3-thiazol-2-yl]-2-chloroacetamide hydrochloride | 1.0 g | Cl.CC(C)(C)C1=CC=C(C=C1)C=1N=C(SC1C1=CC=NC=C1)NC(CCl)=O
reactant | sodium cyanate | 0.24 g | [O-]C#N.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dimethylsulfoxide | 5 mL | CS(=O)C | C2H6OS
product | 5-Amino-3-[4-(1,1-dimethylethyl)phenyl]-2-(4-pyridyl)-7H-thiazolo[3,2-a]pyrimidin-7-one | 0.14 g, yield 24% | NC1=CC(N=C2N1C(=C(S2)C2=CC=NC=C2)C2=CC=C(C=C2)C(C)(C)C)=O | C21H20N4OS
